US09023846B2
A solution of 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid (5-tert-butyl-2-methyl-2H-pyrazole-3-carbonyl)-[3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide (339 mg, 0.554 mmol, prepared as described in the previous step) was taken up in acetic acid (10 mL), treated with iron powder (124 mg, 2.22 mmol), and heated to 90° C. for 15 h. The resulting mixture was concentrated to a volume of 3 mL, treated with saturated aqueous NaHCO3 (75 mL) and extracted twice with EtOAc (75 mL, 40 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 24-g SEPRA Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=EtOAc/hexanes, 1:19 v/v for 5 min, then 1:19 to 1:4 v/v over 40 min) to yield 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-5-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyridine as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 8.13 (d, J=8.3 Hz, 1H), 7.81 (d, J=8.1 Hz, 1H), 7.61-7.68 (m, 1H), 7.52-7.59 (m, 2H), 7.40 (d, J=8.1 Hz, 1H), 6.56 (s, 1H), 4.37 (s, 3H), 1.37 (s, 9H). Mass Spectrum (LCMS, APCI pos.): Calculated for C21H20F3N5: 400.2 (M+H); Measured: 400.2.

reactant | 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid (5-tert-butyl-2-methyl-2H-pyrazole-3-carbonyl)-[3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide | C(C)(C)(C)C=1C=C(N(N1)C)C(=O)N(C(=O)C=1N(N=C(C1)C(C)(C)C)C)C1=NC(=CC=C1[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F | C30H32F3N7O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.22 mmol, 124 mg | [Fe] | Fe
product | 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-5-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyridine | C(C)(C)(C)C=1C=C(N(N1)C)C=1NC=2C(=NC(=CC2)C2=C(C=CC=C2)C(F)(F)F)N1 | C21H20F3N5
